US08445687B2
Ethyl 4-chloro-3-(trifluoromethyl)phenylcarbamate (10 g, 0.0373 mol) and hydroxyl amine hydrochloride (13 g, 0.1868 mol) were refluxed in acetic acid for 12 hours and the organic layer was evaporated under vacuum to get oil. This oil was mixed with water (100 ml) and the obtained precipitate was stirred at room temperature for 1-2 hours. The obtained solid was filtered and washed thoroughly with water. The wet cake was vacuum dried at 50° C. to afford 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-hydroxyurea (6.8 g) as a white crystalline solid.

reactant | Ethyl 4-chloro-3-(trifluoromethyl)phenylcarbamate | 0.0373 mol, 10 g | ClC1=C(C=C(C=C1)NC(OCC)=O)C(F)(F)F | C10H9ClF3NO2
reactant | hydroxyl amine hydrochloride | 0.1868 mol, 13 g | Cl.ON
reactant | water | 100 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-hydroxyurea | 6.8 g | ClC1=C(C=C(C=C1)NC(=O)NO)C(F)(F)F | C8H6ClF3N2O2
